US07393852B2
Preparation XVII—7-bromomethyl-6-chloro-chroman-4-one
A mixture of 6-chloro-7-methyl-chroman-4-one (20 g, 101.71 mmol), NBS (19.9 g, 111.88 mmol), and AIBN (4.17 g, 25.43 mmol) in anhydrous CCl4 (300 mL) was heated at reflux in 24 h. The mixture was cooled, filtered the solid. The filtrate was concentrated and used in the next step without purification.

reactant | 6-chloro-7-methyl-chroman-4-one | 101.71 mmol, 20 g | ClC=1C=C2C(CCOC2=CC1C)=O | C10H9ClO2
reactant | NBS | 111.88 mmol, 19.9 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | AIBN | 25.43 mmol, 4.17 g | CC(C)(C#N)N=NC(C)(C)C#N | C8H12N4
solvent | CCl4 | 300 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | 7-bromomethyl-6-chloro-chroman-4-one | BrCC1=C(C=C2C(CCOC2=C1)=O)Cl | C10H8BrClO2
